US04250246
To 30 ml of 2-methoxyethylamine, 27.5 g (0.1 mol) of sodium 2-chloro-5-nitrobenzenesulfonate was added. The reaction mixture was heated on a steam bath with stirring for 1 hour. After cooling, 100 ml of a saturated aqueous sodium chloride solution was added to the mixture. The crystals thus-precipitated were collected by filtration and washed with acetone to obtain about 30 g (yield: 87%) of sodium 2-(2-methoxyethylamino)-5-nitrobenzenesulfonate. This compound (30 g) was suspended in 100 ml of dimethylformamide. To the mixture anhydrous potassium carbonate (20 g) and methoxyethyl bromide (21g) were added, and heated on a steam bath with stirring for 1 hour. The reaction mixture was added to 100 ml of water and the insoluble materials were removed by filtration. To the filtrate an aqueous hydrochloric acid was added to render an acid condition. The crystals thus-precipitated were collected by filtration to obtain about 21 g (yield: 60%) of sodium 2-bis(2-methoxyethyl)amino-5-nitrobenzensulfonate. Melting Point: 202°-204° C.

reactant | 2-methoxyethylamine | 30 ml | COCCN | C3H9NO
reactant | sodium 2-chloro-5-nitrobenzenesulfonate | 0.1 mol, 27.5 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)[O-].[Na+]
solvent | sodium chloride | 100 ml | [Cl-].[Na+]
product | sodium 2-(2-methoxyethylamino)-5-nitrobenzenesulfonate | about 30 g, yield: 87% | COCCNC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)[O-].[Na+] | InChI=1S/C9H12N2O6S.Na/c1-17-5-4-10-8-3-2-7(11(12)13)6-9(8)18(14,15)16;/h2-3,6,10H,4-5H2,1H3,(H,14,15,16);/q;+1/p-1
